US07741351B2
N-[5-(3-{[(methylsulfonyl)amino]methyl}phenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide
A solution of N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide (69 mg, 0.2 mmol) in dichloromethane (5 ml) was treated with triethylamine (40 mg, 0.4 mmol), followed by methanesulfonyl chloride (25 mg, 0.22 mmol) and the wole mix stirred at room temperature under argon for 1 h. The reaction mix was washed with 0.5M hydrochloric acid, and the organic layer was evaporated under reduced pressure to give a brown oil which was purified by column chromatography on a 1 g SCX column eluting from 0-50% ethyl acetate in 40-60° C. petroleum ether to give the title compound as a yellow oil (46 mg, 55%).

reactant | N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide | 0.2 mmol, 69 mg | NCC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C19H24N2O2S
reactant | triethylamine | 0.4 mmol, 40 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mmol, 25 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[5-(3-{[(methylsulfonyl)amino]methyl}phenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 46 mg, 55% | CS(=O)(=O)NCC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C20H26N2O4S2
